### PR TITLE
[Merged by Bors] - feat(ConditionallyCompleteLattice/Finset): ciSup_mem on list/multiset/finset

### PR DESCRIPTION
**Pull request by pechersky**
As well as toDual_csSup
And simpler lemmas when on ConditionallyCompleteLinearOrderBot

---

- [x] depends on: #15271

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Order/ConditionallyCompleteLattice/Finset.lean [hunk 1]
```diff
@@ -46,12 +46,171 @@ theorem Set.Finite.csSup_lt_iff (hs : s.Finite) (h : s.Nonempty) : sSup s < a 
...
+variable (f : ι → α)
+
+theorem Finset.ciSup_eq_max'_image {s : Finset ι} (h : ∃ x ∈ s, sSup ∅ ≤ f x)
+    (h' : (s.image f).Nonempty := by classical exact image_nonempty.mpr (h.imp fun _ ↦ And.left)) :
+    ⨆ i ∈ s, f i = (s.image f).max' h' := by
+  classical
+  rw [iSup, ← h'.csSup_eq_max', coe_image]
+  refine csSup_eq_csSup_of_forall_exists_le ?_ ?_
+  · simp only [ciSup_eq_ite, dite_eq_ite, Set.mem_range, Set.mem_image, mem_coe,
+    exists_exists_and_eq_and, forall_exists_index, forall_apply_eq_imp_iff]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Order/ConditionallyCompleteLattice/Finset.lean:84]:
```suggestion
      exists_exists_and_eq_and, forall_exists_index, forall_apply_eq_imp_iff]
```

File: Mathlib/Order/ConditionallyCompleteLattice/Finset.lean [hunk 2]
```diff
@@ -46,12 +46,171 @@ theorem Set.Finite.csSup_lt_iff (hs : s.Finite) (h : s.Nonempty) : sSup s < a 
...
+    intro i
+    split_ifs
+    · exact ⟨_, by assumption, le_rfl⟩
+    · obtain ⟨a, ha, ha'⟩ := h
+      exact ⟨a, ha, ha'⟩
+  · simp only [Set.mem_image, mem_coe, ciSup_eq_ite, dite_eq_ite, Set.mem_range,
+    exists_exists_eq_and, forall_exists_index, and_imp, forall_apply_eq_imp_iff₂]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Order/ConditionallyCompleteLattice/Finset.lean:91]:
```suggestion
      exists_exists_eq_and, forall_exists_index, and_imp, forall_apply_eq_imp_iff₂]
```

File: Mathlib/Order/ConditionallyCompleteLattice/Finset.lean [hunk 3]
```diff
@@ -46,12 +46,171 @@ theorem Set.Finite.csSup_lt_iff (hs : s.Finite) (h : s.Nonempty) : sSup s < a 
...
+theorem Set.Finite.ciSup_lt_iff {s : Set ι} {f : ι → α} (hs : s.Finite)
+    (h : ∃ x ∈ s, sSup ∅ ≤ f x) :
+    ⨆ i ∈ s, f i < a ↔ ∀ x ∈ s, f x < a := by
+  constructor
+  · intro h x hx
+    refine h.trans_le' (le_csSup ?_ ?_)
+    · classical
+      refine (((hs.image f).union (finite_singleton (sSup ∅))).subset ?_).bddAbove
+      intro
+      simp [ciSup_eq_ite]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Order/ConditionallyCompleteLattice/Finset.lean:137]: Squeeze

File: Mathlib/Order/ConditionallyCompleteLattice/Finset.lean [hunk 4]
```diff
@@ -46,12 +46,171 @@ theorem Set.Finite.csSup_lt_iff (hs : s.Finite) (h : s.Nonempty) : sSup s < a 
...
+theorem Set.Finite.lt_ciInf_iff {s : Set ι} {f : ι → α} (hs : s.Finite)
+    (h : ∃ x ∈ s, f x ≤ sInf ∅) :
+    a < ⨅ i ∈ s, f i ↔ ∀ x ∈ s, a < f x := by
+  constructor
+  · intro h x hx
+    refine h.trans_le (csInf_le ?_ ?_)
+    · classical
+      refine (((hs.image f).union (finite_singleton (sInf ∅))).subset ?_).bddBelow
+      intro
+      simp [ciInf_eq_ite]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Order/ConditionallyCompleteLattice/Finset.lean:161]: Squeeze

File: Mathlib/Order/ConditionallyCompleteLattice/Finset.lean [hunk 5]
```diff
@@ -102,3 +261,38 @@ lemma sup_univ_eq_ciSup [Fintype ι] (f : ι → α) : univ.sup f = ⨆ i, f i :
...
+
+theorem Set.Nonempty.ciSup_mem_image {s : Set ι} (h : s.Nonempty) (hs : s.Finite) :
+    ⨆ i ∈ s, f i ∈ f '' s :=
+  hs.ciSup_mem_image _ (h.imp (by simp))
+
+theorem Set.Nonempty.ciSup_lt_iff {s : Set ι} {a : α} {f : ι → α} (h : s.Nonempty) (hs : s.Finite) :
+    ⨆ i ∈ s, f i < a ↔ ∀ x ∈ s, f x < a :=
+  hs.ciSup_lt_iff (h.imp (by simp))
+
+section BigOperators
```
Comment (Ruben-VandeVelde) [inline Mathlib/Order/ConditionallyCompleteLattice/Finset.lean:286]: What's BigOperators about this?

**Review by Ruben-VandeVelde — CHANGES_REQUESTED** [review]

File: Mathlib/Order/ConditionallyCompleteLattice/Finset.lean (hunk 5 above)
Comment (pechersky) [reply Mathlib/Order/ConditionallyCompleteLattice/Finset.lean:286]: That is operates over List and Multiset. Do you have a better section name?

Comment (pechersky) [reply Mathlib/Order/ConditionallyCompleteLattice/Finset.lean]: renamed section to `ListMultiset`

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

**Comment by urkud** [comment]
I think that some lemmas in this PR can be generalized. Please don't merge it yet. I'll write more in ~1h.

File: Mathlib/Order/ConditionallyCompleteLattice/Basic.lean [hunk 6]
```diff
@@ -296,6 +296,14 @@ instance (α : Type*) [ConditionallyCompleteLinearOrder α] : ConditionallyCompl
 
 end OrderDual
 
+theorem toDual_ciSup [ConditionallyCompleteLattice α] (f : ι → α) :
+    OrderDual.toDual (⨆ i, f i) = ⨅ i, (OrderDual.toDual ∘ f) i :=
+  rfl
```
Comment (urkud) [inline Mathlib/Order/ConditionallyCompleteLattice/Basic.lean:301]: This lemma should assume `[SupSet α]`, same for the next one. Do we use `ciSup` for lemmas like this? I thought that this is for conditionally complete lattice versions of lemmas that have `iSup` versions with fewer assumptions.

File: Mathlib/Order/ConditionallyCompleteLattice/Finset.lean [hunk 7]
```diff
@@ -46,12 +46,173 @@ theorem Set.Finite.csSup_lt_iff (hs : s.Finite) (h : s.Nonempty) : sSup s < a 
 theorem Set.Finite.lt_csInf_iff (hs : s.Finite) (h : s.Nonempty) : a < sInf s ↔ ∀ x ∈ s, a < x :=
   @Set.Finite.csSup_lt_iff αᵒᵈ _ _ _ hs h
 
+theorem toDual_csSup {s : Set α} (h : s.Nonempty) (hs : Set.Finite s) :
+    OrderDual.toDual (sSup s) = sInf (OrderDual.toDual '' s) := by
```
Comment (urkud) [inline Mathlib/Order/ConditionallyCompleteLattice/Finset.lean:50]: This is true for any set `s`, because this is basically `congr_arg sSup (image_id s)`

File: Mathlib/Order/ConditionallyCompleteLattice/Basic.lean (hunk 6 above)
Comment (pechersky) [reply Mathlib/Order/ConditionallyCompleteLattice/Basic.lean]: Done, and made sure to generalize the existing lemmas out of `CompleteLattice` to `SupSet`.

File: Mathlib/Order/ConditionallyCompleteLattice/Finset.lean (hunk 7 above)
Comment (pechersky) [reply Mathlib/Order/ConditionallyCompleteLattice/Finset.lean]: Done, and made sure to generalize the existing lemmas out of `CompleteLattice` to `SupSet`.

File: Mathlib/Order/ConditionallyCompleteLattice/Finset.lean [hunk 8]
```diff
@@ -46,12 +46,147 @@ theorem Set.Finite.csSup_lt_iff (hs : s.Finite) (h : s.Nonempty) : sSup s < a 
...
+    exact H _ hmem
+
+section ListMultiset
+
+lemma List.iSup_mem_map_of_exists_sSup_empty_le {l : List ι} (f : ι → α)
+    (h : ∃ x ∈ l, sSup ∅ ≤ f x) :
+    ⨆ x ∈ l, f x ∈ l.map f := by
+  classical
+  have := l.toFinset.ciSup_mem_image f (by simpa using h)
+  simpa using this
```
Comment (Vierkantor) [inline Mathlib/Order/ConditionallyCompleteLattice/Finset.lean:159]: `simpa` (unlike `rwa`) accepts a full term so we can simplify to:
```suggestion
  simpa using l.toFinset.ciSup_mem_image f (by simpa using h)
```

File: Mathlib/Order/ConditionallyCompleteLattice/Finset.lean [hunk 9]
```diff
@@ -46,12 +46,147 @@ theorem Set.Finite.csSup_lt_iff (hs : s.Finite) (h : s.Nonempty) : sSup s < a 
...
+
+lemma List.iInf_mem_map_of_exists_le_sInf_empty {l : List ι} (f : ι → α)
+    (h : ∃ x ∈ l, f x ≤ sInf ∅) :
+    ⨅ x ∈ l, f x ∈ l.map f := by
+  classical
+  have := l.toFinset.ciInf_mem_image f (by simpa using h)
+  simpa using this
```
Comment (Vierkantor) [inline Mathlib/Order/ConditionallyCompleteLattice/Finset.lean:166]:
```suggestion
  simpa using l.toFinset.ciSup_mem_image f (by simpa using h)
```

File: Mathlib/Order/ConditionallyCompleteLattice/Finset.lean [hunk 10]
```diff
@@ -46,12 +46,147 @@ theorem Set.Finite.csSup_lt_iff (hs : s.Finite) (h : s.Nonempty) : sSup s < a 
...
+
+lemma Multiset.iSup_mem_map_of_exists_sSup_empty_le {s : Multiset ι} (f : ι → α)
+    (h : ∃ x ∈ s, sSup ∅ ≤ f x) :
+    ⨆ x ∈ s, f x ∈ s.map f := by
+  classical
+  have := s.toFinset.ciSup_mem_image f (by simpa using h)
+  simpa using this
```
Comment (Vierkantor) [inline Mathlib/Order/ConditionallyCompleteLattice/Finset.lean:173]:
```suggestion
  simpa using s.toFinset.ciSup_mem_image f (by simpa using h)
```

File: Mathlib/Order/ConditionallyCompleteLattice/Finset.lean [hunk 11]
```diff
@@ -46,12 +46,147 @@ theorem Set.Finite.csSup_lt_iff (hs : s.Finite) (h : s.Nonempty) : sSup s < a 
...
+
+lemma Multiset.iInf_mem_map_of_exists_le_sInf_empty {s : Multiset ι} (f : ι → α)
+    (h : ∃ x ∈ s, f x ≤ sInf ∅) :
+    ⨅ x ∈ s, f x ∈ s.map f := by
+  classical
+  have := s.toFinset.ciInf_mem_image f (by simpa using h)
+  simpa using this
```
Comment (Vierkantor) [inline Mathlib/Order/ConditionallyCompleteLattice/Finset.lean:180]:
```suggestion
  simpa using s.toFinset.ciInf_mem_image f (by simpa using h)
```

**Review by Vierkantor — APPROVED** [review]
Thanks!

bors d+
